US04203988
A. 2-(2-Diisopropylaminoethylamino)-4-nitropyridine-N-oxide
A mixture of 2-chloro-4-nitropyridine-N-oxide (20.9 g., 0.12 mole) and 2-diisopropylaminoethylamine (34.8 g., 0.24 mole) dissolved in absolute ethanol (200 ml) is refluxed for 31/2 hours. The solvent is evaporated and the residue is extracted with hot cyclohexane several times to give upon cooling orange crystalline product (20.9 g.), m.p. 94°-97° C.

reactant | 2-chloro-4-nitropyridine-N-oxide | 0.12 mole, 20.9 g | ClC1=[N+](C=CC(=C1)[N+](=O)[O-])[O-] | C5H3ClN2O3
reactant | 2-diisopropylaminoethylamine | 0.24 mole, 34.8 g | C(C)(C)N(CCN)C(C)C | C8H20N2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(2-Diisopropylaminoethylamino)-4-nitropyridine-N-oxide | C(C)(C)N(CCNC1=[N+](C=CC(=C1)[N+](=O)[O-])[O-])C(C)C | C13H22N4O3
